US08053438B2
A glass microwave reaction vessel was charged with 4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)aniline (0.1536 g, 0.566 mmol) and 2-chlorobenzimidazole (0.095 g, 0.623 mmol) in IPA. The reaction mixture was stirred and heated in a Biotage Initiator microwave reactor at 170° C. for 30 min. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage pre-packed silica gel column (40S), eluting with a gradient of 1% to 5% MeOH in DCM, to provide N-(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine. MS (ESI, pos. ion) m/z: 388.0 (M+1). IC50 (uM) +++++.

reactant | 4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)aniline | 0.566 mmol, 0.1536 g | O1CCC(CC1)C=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C15H17N3O2
reactant | 2-chlorobenzimidazole | 0.623 mmol, 0.095 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
solvent | IPA | CC(C)O | C3H8O
product | N-(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | O1CCC(CC1)C=1C(=NC=CN1)OC1=CC=C(C=C1)NC1=NC2=C(N1)C=CC=C2 | C22H21N5O2
